US08865736B2
5-Bromo-4-(4-methoxy-phenyl)-2-methyl-thiazole
To the solution of 5-Bromo-2-bromomethyl-4-(4-methoxy-phenyl)-thiazole (5.0 g, 24.3 mmol) in the 20 ml of CCl4 was added NBS (4.32 g, 24.3 mmol) and AIBN (0.4 g, 2.43 mmol). The reaction mixture was heated at 100° C. for 2 h under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (230-400 M) using 1% ethyl acetate/hexane eluent to give the desired product (4.0 g, 58%).

reactant | 5-Bromo-2-bromomethyl-4-(4-methoxy-phenyl)-thiazole | 24.3 mmol, 5.0 g | BrC1=C(N=C(S1)CBr)C1=CC=C(C=C1)OC | C11H9Br2NOS
reactant | NBS | 24.3 mmol, 4.32 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 2.43 mmol, 0.4 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-4-(4-methoxy-phenyl)-2-methyl-thiazole | 4.0 g, 58% | BrC1=C(N=C(S1)C)C1=CC=C(C=C1)OC | C11H10BrNOS
